US04478833
8-Benzylthio-2-(2-hydroxyethyl-amino)-4-morpholinopyrimido[5,4-d]pyrimidine
The same substance was also obtained in analogous manner by heating 8-benzylthio-4-morpholino-2-phenoxypyrimido[5,4-d]pyrimidine (melting point: 159°-161° C.) at 90° C. with 2-hydroxyethyl-amine.

reactant | 8-benzylthio-4-morpholino-2-phenoxypyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)OC2=CC=CC=C2 | C23H21N5O2S
reactant | 2-hydroxyethyl-amine | OCCN | C2H7NO
product | 8-Benzylthio-2-(2-hydroxyethyl-amino)-4-morpholinopyrimido[5,4-d]pyrimidine | C(C1=CC=CC=C1)SC1=NC=NC2=C1N=C(N=C2N2CCOCC2)NCCO | C19H22N6O2S
